US07456164B2
{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine dihydrochloride
To a stirred suspension of LiAlH4 (1.81 g, 47.7 mmol, 5 eq) in Et2O/DCM (1:1, 30 mL) at 0 to 5° C. under a nitrogen atmosphere was added 4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile (3 g, 9.55 mmol) in Et2O/DCM (1:1, 30 mL) over 15 minutes maintaining the temperature at 5 to 10° C. The reaction mixture was allowed to warm up to ambient temperature and stirred until complete. Sodium hydroxide (2N, 15 mL) was added dropwise and the resulting solids were filtered, washed with Et2O/DCM (1:1, 6×50 mL) and concentrated in vacuo at 40° C. A portion of the crude product from the above reaction (0.5 g, 1.57 mmol) was dissolved in dioxane (5 mL) and 4M HCl in dioxane (1.18 mL) added under N2. The reaction was stirred for 3 hours and filtered under a blanket of N2 (hygroscopic), washed with TBME and dried in the oven at 40° C. to give the title compound as a white solid (0.5 g, 81%). 1H NMR (400 MHz, DMSO-d6) δ11.24 (br s, 1H), 8.00 (br s, 3H), 7.33 (d, 2H), 6.98 (d, 2H), 4.08 (t, 2H), 3.76-3.63 (m, 2H), 3.60-3.46 (m, 2H), 3.45-3.18 (m, 4H), 3.07-2.87 (m, 4H), 2.25-1.77 (m, 10H).

reactant | LiAlH4 | 47.7 mmol, 1.81 g, 5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 9.55 mmol, 3 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | Sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
solvent | Et2O DCM | 30 mL | CCOCC.C(Cl)Cl
solvent | Et2O DCM | 30 mL | CCOCC.C(Cl)Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.18 mL | O1CCOCC1 | C4H8O2
product | {4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine dihydrochloride | 0.5 g, 81% | Cl.Cl.N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | InChI=1S/C19H30N2O2.2ClH/c20-16-19(8-14-22-15-9-19)17-4-6-18(7-5-17)23-13-3-12-21-10-1-2-11-21;;/h4-7H,1-3,8-16,20H2;2*1H
